US08106043B2
4-(3-(Pyrrolidin-1-yl)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine:
A solution of 7-nitro-4-(3-(pyrrolidin-1-yl)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine (0.55 g, 1.789 mmol) in dry methanol (10 mL) was treated with hydrazine hydrate (0.652 mL, 17.89 mmol) followed by Raney-Nickel (0.1 g, 1.789 mmol) at room temperature. The resulting mixture was stirred at reflux for 5 minutes using a pre-heated oil bath. The reaction was then brought to room temperature, filtered through a pad of Celite, and washed with methanol (3×10 mL). The combined methanol layers were evaporated, and the crude material was purified by flash column chromatography (5:95 (2 M NH3 in MeOH):CH2Cl2) to obtain the title product (0.45 g, 91%) as a syrup. 1H NMR (DMSO-d6) δ 6.51 (d, 1H, J=9.3 Hz), 6.26-6.23 (m, 2H), 4.41 (s, 2H), 3.37-3.30 (m, 2H, merged with water peak), 3.11 (t, 2H, J=6.9 Hz), 2.98-2.95 (m, 2H), 2.42-2.37 (m, 6H), 1.67-1.60 (m, 6H).

reactant | 7-nitro-4-(3-(pyrrolidin-1-yl)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine | 1.789 mmol, 0.55 g | [N+](=O)([O-])C=1C=CC2=C(SCCN2CCCN2CCCC2)C1 | C15H21N3O2S
reactant | hydrazine hydrate | 17.89 mmol, 0.652 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney-Nickel | 1.789 mmol, 0.1 g | [Ni] | Ni
product | 4-(3-(Pyrrolidin-1-yl)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine | 0.45 g, 91% | N1(CCCC1)CCCN1C2=C(SCC1)C=C(C=C2)N | C15H23N3S
